US06380215B1
To a mixture of N-[(3-piperidyl)carbonyl]-β-alanine methyl ester hydrochloride (1.57 g),3-(1-tert-butoxycarbonyl-4-piperidyl)propionic acid (1.61 g) and 1-hydroxybenztriazole (0.96 g) in N,N-dimethylformamide (16 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (1.14 ml) under stirring at 0° C. After stirring at ambient temperature for 1 hour, the mixture was poured into water and extracted with ethyl acetate. The extract was washed with water, brine and dried over MgSO4, and evaporated in vacuo. The residue was purified by chromatography on silica gel eluting with (CHCl3:MeOH 100:1) to give N-[1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-β-alanine methyl ester as an oil (2.19 g).

reactant | N-[(3-piperidyl)carbonyl]-β-alanine methyl ester hydrochloride | 1.57 g | Cl.COC(CCNC(=O)C1CNCCC1)=O
reactant | 3-(1-tert-butoxycarbonyl-4-piperidyl)propionic acid | 1.61 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(=O)O | C13H23NO4
reactant | 1-hydroxybenztriazole | 0.96 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 1.14 ml | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | N,N-dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-β-alanine methyl ester | 2.19 g | COC(CCNC(=O)C1CN(CCC1)C(CCC1CCN(CC1)C(=O)OC(C)(C)C)=O)=O | C23H39N3O6
